US06562807B2
To (S)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)acetic acid (1 g, 5.7 mmol) and triethylamine (0.66 g, 6.5 mmol) in toluene (20 mL) was added phosphorazidic acid diphenyl ester (1.7 g, 6.2 mmol). The solution was heated to reflux for 1 hour. Benzyl alcohol (0.54 g, 5 mmol) was added and reflux was maintained for additional 6 hours. After cooling, the solution was partitioned between ethyl acetate (2×50 mL) and aqueous sodium hydrogen carbonate (10%, 2×50 mL). The organic layers were collected, dried (sodium sulphate) and the solvent removed by evaporation in vacuo to afford 976 mg of crude (S)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylmethyl)carbamic acid benzyl ester as an oil.

reactant | (S)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)acetic acid | 5.7 mmol, 1 g | CC1(OC([C@@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | triethylamine | 6.5 mmol, 0.66 g | C(C)N(CC)CC | C6H15N
reactant | phosphorazidic acid diphenyl ester | 6.2 mmol, 1.7 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | Benzyl alcohol | 5 mmol, 0.54 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylmethyl)carbamic acid benzyl ester | 976 mg | C(C1=CC=CC=C1)OC(NC[C@@H]1OC(OC1=O)(C)C)=O | C14H17NO5
